* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1499.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
R1 N002 N001 6.81K
V3 N006 0 2.5
C1 N002 N004 100p
R3 N004 N001 11.3K
R4 N001 IN 6.81K
V2 IN 0 2.5 AC 1
R2 OUT N003 5.23K
C2 OUT N005 47p
R5 N005 N003 10.2K
R6 N003 N002 5.23K
C3 N001 0 330p
C4 N003 0 1000p
X§U1 N006 N004 +V 0 N002 LT1498
X§U2 N006 N005 +V 0 OUT LT1498
.ac oct 100 1 1Meg
* Single Supply 100KHz 4th Order Butterworth Filter
.lib LTC.lib
.backanno
.end
